US05371080
3-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-5-morpholino-6-trifluoromethyl-imidazo[1,5-a]quinazoline (Compound 1)
To a stirred solution of 2-chloro-4-morpholino-5-trifluoromethyl-quinazoline (600 mg, 1.9 mmol) and 3-cyclopropyl-5-isocyanomethyl-1,2,4-oxadiazole (440 mg, 2.9 mmol) in dry DMF (15 ml) under nitrogen at 5°-10° C. was added solid potassium t-butoxide (330 mg, 2.9 mmol). The mixture was stirred at 5°-10° C. for 0.5 h and triturated with water (20 ml). The crystals were filtered off and washed with water (10 ml) and ethyl acetate. A final purification was done by stirring the crystals in acetone (10 ml) to give 330 mg of the title compounds, m.p. 197°-199° C.

reactant | 2-chloro-4-morpholino-5-trifluoromethyl-quinazoline | 1.9 mmol, 600 mg | ClC1=NC2=CC=CC(=C2C(=N1)N1CCOCC1)C(F)(F)F | C13H11ClF3N3O
reactant | 3-cyclopropyl-5-isocyanomethyl-1,2,4-oxadiazole | 2.9 mmol, 440 mg | C1(CC1)C1=NOC(=N1)C[N+]#[C-] | C7H7N3O
reactant | potassium t-butoxide | 2.9 mmol, 330 mg | CC(C)([O-])C.[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)-5-morpholino-6-trifluoromethyl-imidazo[1,5-a]quinazoline | 330 mg | C1(CC1)C1=NOC(=N1)C=1N=CN2C1N=C(C1=C(C=CC=C21)C(F)(F)F)N2CCOCC2 | C20H17F3N6O2
